US08686150B2
(b) 6-(4-Hydroxy-phenyl)-3-methyl-1-(tetrahydro-pyran-2-yl)-1H-pyrazolo[3,4-b]pyridine-4-carboxylic acid methyl ester
A mixture of 6-(4-hydroxy-phenyl)-3-methyl-1H-pyrazolo[3,4-b]pyridine-4-carboxylic acid methyl ester (15 g), 3,4-dihydro-2H-pyran (24 mL) and p-toluenesulfonic acid monohydrate (3.0 g) in THF (400 mL) was stirred at r.t. until the reaction was complete. Water was added and the mixture was extracted with ethyl acetate, the combined organic phases were washed with water and brine, dried over magnesium sulfate and concentrated. The residue was chromatographed over a short path column (heptane/ethyl acetate gradient). The product containing fractions were combined, concentrated, and the resulting residue was triturated with ether to give 11 g (57%) of the title compound.

reactant | 6-(4-hydroxy-phenyl)-3-methyl-1H-pyrazolo[3,4-b]pyridine-4-carboxylic acid methyl ester | 15 g | COC(=O)C=1C2=C(N=C(C1)C1=CC=C(C=C1)O)NN=C2C | C15H13N3O3
reactant | 3,4-dihydro-2H-pyran | 24 mL | O1CCCC=C1 | C5H8O
reactant | p-toluenesulfonic acid monohydrate | 3.0 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | Water | O | H2O
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | 6-(4-Hydroxy-phenyl)-3-methyl-1-(tetrahydro-pyran-2-yl)-1H-pyrazolo[3,4-b]pyridine-4-carboxylic acid methyl ester | 11 g, 57% | COC(=O)C=1C2=C(N=C(C1)C1=CC=C(C=C1)O)N(N=C2C)C2OCCCC2 | C20H21N3O4
